US03966824
α-trichloromethyl-p-chlorobenzyl alcohol, 5.0g, was stirred with p-chlorophenol, 2.6g, and sulfuric acid, 35 ml, was added dropwise. After 2 hrs. of stirring, the mixture was poured onto ice and extracted with ether. After drying with sodium sulfate, the ether was removed under vacuum and the residue was recrystallized from ethanol to give α-trichloromethyl-p-chlorobenzyl p-chlorophenyl ether, mp 101°C. This method of synthesis is referred to in Table I as method A.

reactant | α-trichloromethyl-p-chlorobenzyl alcohol | ClC(C(C1=CC=C(C=C1)Cl)O)(Cl)Cl | C8H6Cl4O
reactant | p-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | α-trichloromethyl-p-chlorobenzyl p-chlorophenyl ether | ClC1=CC=C(C=C1)OC(C1=CC=C(C=C1)Cl)C(Cl)(Cl)Cl | C14H9Cl5O
